US09428528B2
Step 1 Preparation of N-(1-(5-bromopyridin-2-yl)cyclopropyl)methanesulfonamide
Commercially available 1-(5-bromopyridin-2-yl)cyclopropanamine dihydrochloric acid salt (494 mg, 1.73 mmol) is dissolved in CH2Cl2 (11.5 mL, 0.15M) and had 3.1 eq. of triethylamine (543 mg, 5.36 mmol) added to it. 1.1 eq. of methanesulfonyl chloride (218 mg, 1.9 mmol) is then added and the mixture stirred for 16 hours. Dichloromethane (20 mL) is added and washed with NaHCO3 (sat, aq). The solvent is evaporated to give the title compound (310 mg): m/z (CI) 293 [M+H].

reactant | 1-(5-bromopyridin-2-yl)cyclopropanamine dihydrochloric acid salt | 1.73 mmol, 494 mg | Cl.Cl.BrC=1C=CC(=NC1)C1(CC1)N
reactant | triethylamine | 5.36 mmol, 543 mg, 3.1 eq. | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.9 mmol, 218 mg, 1.1 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 0.15M, 11.5 mL | C(Cl)Cl | CH2Cl2
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(1-(5-bromopyridin-2-yl)cyclopropyl)methanesulfonamide | 310 mg | BrC=1C=CC(=NC1)C1(CC1)NS(=O)(=O)C | C9H11BrN2O2S
